US07396830B2
Preparation of (phenyl(piperazin-1-yl)methylene)cyanamide hydrochloride
tert-Butyl 4-(cyanamido(phenyl)methyl)piperazine-1-carboxylate (1.5 g) was dissolved in 16 ml of 2M HCl in dioxane. After four hours, the solution was diluted with dioxane (20 ml) and the solid, (phenyl(piperazin-1-yl)methylene)cyanamide hydrochloride (1 g), was collected via filtration. It was washed with ether before further use.

reactant | tert-Butyl 4-(cyanamido(phenyl)methyl)piperazine-1-carboxylate | 1.5 g | N(C#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H24N4O2
reactant | HCl | 2M, 16 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (phenyl(piperazin-1-yl)methylene)cyanamide hydrochloride | Cl.C1(=CC=CC=C1)C(N1CCNCC1)=NC#N | InChI=1S/C12H14N4.ClH/c13-10-15-12(11-4-2-1-3-5-11)16-8-6-14-7-9-16;/h1-5,14H,6-9H2;1H
